US07348337B2
Preparation of 1-[4-(1-Bromo-1-phenyl-methylene)-piperidin-1-yl]-2-(4,7-dimethoxy-6-azaindol-3-yl)-ethane-1,2-dione:
A solution of 4-(1-bromo-1-phenyl-methylene)-piperidine-1-carboxylic acid tert-butyl ester in 4N HCl-dioxane (10 mL) was stirred at room temperature for 2 h. The volatiles were then removed in vacuo and the residue was dissolved in CHCl3 (15 mL). To this solution was added 4,7-dimethoxy-6-azaindol-3-yl-oxoacetic acid (0.906 g, 3.37 mmol) and Hünig's base (2.40 mL, 13.8 mmol). After 5 min, BOPCl (0.950 g, 3.73 mmol) was added as a solid and the mixture was allowed to stir at room temperature for 48 hours. The reaction mixture was then adsorbed directly onto silica gel and purified by flash chromatography (SiO2/EtOAc) to give the title compound (1.101 g, 71%) as a yellow solid:

reactant | 4-(1-bromo-1-phenyl-methylene)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)=C(C1=CC=CC=C1)Br | C17H22BrNO2
reactant | 4,7-dimethoxy-6-azaindol-3-yl-oxoacetic acid | 3.37 mmol, 0.906 g | COC1=C2C(=CNC2=C(N=C1)OC)C(C(=O)O)=O | C11H10N2O5
reactant | Hünig's base | 13.8 mmol, 2.40 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | BOPCl | 3.73 mmol, 0.950 g | C1COC(=O)N1P(=O)(N2CCOC2=O)Cl | C6H8ClN2O5P
solvent | HCl dioxane | 4N, 10 mL | Cl.O1CCOCC1
product | 1-[4-(1-Bromo-1-phenyl-methylene)-piperidin-1-yl]-2-(4,7-dimethoxy-6-azaindol-3-yl)-ethane-1,2-dione | 1.101 g, 71% | BrC(C1=CC=CC=C1)=C1CCN(CC1)C(C(=O)C1=CNC2=C(N=CC(=C12)OC)OC)=O | C23H22BrN3O4
